US05356915
(+)-7-Pentafluoroethyl-1,2,3,4-tetrahydronaphthalen-1-one
To a solution of 10 g (0.044 mol) of 7-bromo-1,2,3,4-tetrahydronaphthalenone in 300 mL of N-methylpyrrolidone was added 32.23 g (0.17 mol) of CuI and 31.59 g (0.17 mol) of sodium pentafluoropropanoate and the mixture was heated for 3 h at reflux under an argon atmosphere. After cooling to room temperature, the resulting suspension was poured into a mixture of H2O--Et2O (1:1) and filtered over celite. The layers were separated and the organic phase was washed with H2O and dried over MgSO4. The solvent was removed, to afford a residue that was chromatographed on silica gel (hexane-AcOEt), to give the desired product as a colourless oil (8.75 g, yield: 80%).

reactant | 7-bromo-1,2,3,4-tetrahydronaphthalenone | 0.044 mol, 10 g | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | sodium pentafluoropropanoate | 0.17 mol, 31.59 g | FC(C(C(=O)[O-])(F)F)(F)F.[Na+]
solvent | N-methylpyrrolidone | 300 mL | CN1C(CCC1)=O | C5H9NO
catalyst | CuI | 0.17 mol, 32.23 g | [Cu]I
product | (+)-7-Pentafluoroethyl-1,2,3,4-tetrahydronaphthalen-1-one | 8.75 g, yield: 80% | FC(C(F)(F)F)(C1=CC=C2CCCC(C2=C1)=O)F | C12H9F5O
